US06884814B2
Step h) 6-Methoxy-3-(4-methoxy-2,5-dipropylphenyl)-1,2-benzisoxazole.
A red mixture of acetone O-[5-methoxy-2-(4-methoxy-2,5-dipropylbenzoyl)phenyl]oxime (2.30 g, 5.79 mmol) in acetonitrile (43 mL) and 5% aqueous HCl (32 mL) was stirred at 80° C. for 4 h. Most of the acetonitrile was removed in vacuo and extraction was conducted in CH2Cl2 (3×60 mL) with 33% saturated brine (50 mL). Flash chromatography with silica gel (gradient to 8% EtOAc/hexanes) provided the title compound as a colorless oil (1.72 g, 87% yield for two steps): 1H NMR (300 MHz, CDCl3) δ 0.84 (t, 3H, J=7.3 Hz), 0.96 (t, 3H, J=7.4 Hz), 1.58 (m, 4H), 2.60 (t, 2H, J=7.6 Hz), 2.70 (t, 2H, J=7.8 Hz), 3.89 (s, 3H), 3.92 (s, 3H), 6.84 (s, 1H), 6.92 (dd, 1H, J=8.7, 2.1 Hz), 7.05 (d, 1H, J=2.0 Hz), 7.23 (s, 1H), 7.40 (d, 1H, J=8.7 Hz); MS m/e 340 (M+H)+.

reactant | acetone O-[5-methoxy-2-(4-methoxy-2,5-dipropylbenzoyl)phenyl]oxime | 5.79 mmol, 2.30 g | COC=1C=CC(=C(C1)ON=C(C)C)C(C1=C(C=C(C(=C1)CCC)OC)CCC)=O | C24H31NO4
solvent | acetonitrile | 43 mL | C(C)#N | C2H3N
solvent | HCl | 32 mL | Cl | ClH
product | 6-Methoxy-3-(4-methoxy-2,5-dipropylphenyl)-1,2-benzisoxazole | 1.72 g, 87% yield | COC1=CC2=C(C(=NO2)C2=C(C=C(C(=C2)CCC)OC)CCC)C=C1 | C21H25NO3
